US06610734B2
Phosphorus pentachloride (40.53 g, 0.1947 mol) was added portionwise (caution, foaming) over 5 min at 25° C. to chlorosulfonic acid (56.8 g, 32.4 mL, 0.487 mol) and the resulting solution was stirred at 25° C. for 10 min. Then, 2-chlorofuran (20.0 g, 0.1947 mol) was added in one portion and the resulting dark suspension was heated to 55° C. for 1.0 h during which time foaming occurred and subsided. The reaction mixture was then poured onto ice and the resulting suspension was extracted with CH2Cl2 (250 mL). The organic was filtered through a pad of celite, washed with brine (70 mL) and dried over MgSO4. The solvent was removed in vacuo to provide 5-chlorofuran-2-sulfonyl chloride as a black oil (14.1 g, 36.02%). 1H-NMR (DMSO-d6, 400 MHz) δ7.05 (d, 1H); 6.35 (d, 1H).

reactant | Phosphorus pentachloride | 0.1947 mol, 40.53 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | chlorosulfonic acid | 0.487 mol, 32.4 mL, 56.8 g | ClS(=O)(=O)O | ClHO3S
reactant | 2-chlorofuran | 0.1947 mol, 20.0 g | ClC=1OC=CC1 | C4H3ClO
product | 5-chlorofuran-2-sulfonyl chloride | 14.1 g, 36.02% | ClC1=CC=C(O1)S(=O)(=O)Cl | C4H2Cl2O3S
